data/rdb19/train.csv
rxn,smiles,ea
60,[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:29])([H:30])[H:31])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])[C:17]([H:29])([H:30])[H:31])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:16]([H:26])([H:27])[H:28],80.38306398829445
2665,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:20]([C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26],28.23190705338493
5450,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])([H:12])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],63.959622091264464
4185,[C:16]([O:17][C:18](=[O:19])[C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:23]([C:20]([C:18]([O:17][C:16]([H:26])([H:27])[H:28])=[O:19])([C:21]([H:29])([H:30])[H:31])[C:22]([H:32])([H:33])[H:34])([H:24])[H:25],61.6630333813373
4514,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6])([H:7])([H:8])[H:9].[H:12][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],26.96694773173658
4454,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],10.501671363424975
378,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13].[O:1]([O:2][C:4]([H:10])([H:11])[H:12])[H:3],67.29215470113559
2131,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15])([H:6])[H:7]>>[N:1]([C:2]([O:3][H:23])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:20])([H:21])[H:22])[O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])([H:14])[H:15])([H:6])[H:7],15.665629388182424
3367,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])([H:22])([H:23])[H:24].[C:1]([H:5])([H:6])([H:7])[H:25].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],85.45279111067066
3419,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],24.565943577501457
479,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][C:15]1([H:29])[C:14]([H:28])=[C:13]([H:27])[C:12]([H:26])=[C:11]([C:9]([C:8]([C:7]([H:17])([H:18])[H:19])([H:20])[H:21])([C:10]([H:23])([H:24])[H:25])[H:22])[C:16]1[H:30])([H:4])([H:5])[H:6],30.19080091250362
